US05783522
2-(3-Carbamoyl-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine (Table 1, Example I.185)
A solution of 4.0 g of 3-chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine in 10 ml of methylene chloride was added dropwise to 100 ml of a 25% by weight aqueous ammonia solution cooled to 0° C. After 3 hours, the crystals which had formed were separated off, stirred with n-hexane, again separated off, washed with n-hexane and finally dried. Yield: 2.8 g (75%) of colorless crystals; melting point: 167°-168° C.

reactant | 3-chloro-2-(4-chloro-3-chloroformylphenyl)-5-trifluoromethylpyridine | 4.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)Cl | C13H5Cl3F3NO
reactant | ammonia | N | H3N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Carbamoyl-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine | C(N)(=O)C=1C=C(C=CC1Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H7Cl2F3N2O
